US04167567
A mixture of 1.50 g (0.0037 mol) of 4-[4-[[7-(trifluoromethyl)-4-quinolinyl]amino]benzoyl]piperazine [U.S. Pat. No. 4,025,629], 0.44 ml (0.00375 mol) of 4-chloro-2-methylthiopyrimidine, 0.52 ml (0.00375 mol) of triethylamine, and 125 ml of ethanol is stirred at reflux for 3 hours. After cooling, the ethanol is removed in vacuo and the residue is stirred with methylene chloride and aqueous sodium bicarbonate. The resultant solid is collected and washed with water and ether. Crystallization from methanol-chloroform gives 0.52 g (26%) of 1-[2-(methylthio)-4-pyrimidinyl]-4-[4-[[7-(trifluoromethyl)-4-quinolinyl]amino]benzoyl]piperazine, of melting point 166°-267° C.

reactant | 4-[4-[[7-(trifluoromethyl)-4-quinolinyl]amino]benzoyl]piperazine | 0.0037 mol, 1.50 g | FC(C1=CC=C2C(=CC=NC2=C1)NC1=CC=C(C(=O)N2CCNCC2)C=C1)(F)F | C21H19F3N4O
reactant | 4-chloro-2-methylthiopyrimidine | 0.00375 mol, 0.44 ml | ClC1=NC(=NC=C1)SC | C5H5ClN2S
reactant | triethylamine | 0.00375 mol, 0.52 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 125 ml | C(C)O | C2H6O
product | 1-[2-(methylthio)-4-pyrimidinyl]-4-[4-[[7-(trifluoromethyl)-4-quinolinyl]amino]benzoyl]piperazine | 0.52 g, 26% | CSC1=NC=CC(=N1)N1CCN(CC1)C(C1=CC=C(C=C1)NC1=CC=NC2=CC(=CC=C12)C(F)(F)F)=O | C26H23F3N6OS
